US05760032
Ethyl 5-amino-4-(2-chlorobenzoyl)thiophene-2-carboxylate (280 g) and chloroacetyl chloride (218 ml) were added to chloroform (4 l), and the mixture was refluxed under heating for 2.5 hours. Water was added thereto. The organic layer was taken out, and dried over magnesium sulfate. The solvent was evaporated. Then, diisopropyl ether was added, and the resulting crystals were collected by filtration and washed with diisopropyl ether to give 325 g of ethyl 5-(2-chloroacetylamino)-4-(2-chlorobenzoyl)thiophene-2-carboxylate.

reactant | Ethyl 5-amino-4-(2-chlorobenzoyl)thiophene-2-carboxylate | 280 g | NC1=C(C=C(S1)C(=O)OCC)C(C1=C(C=CC=C1)Cl)=O | C14H12ClNO3S
reactant | chloroacetyl chloride | 218 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | chloroform | 4 l | C(Cl)(Cl)Cl | CHCl3
solvent | Water | O | H2O
product | ethyl 5-(2-chloroacetylamino)-4-(2-chlorobenzoyl)thiophene-2-carboxylate | 325 g | ClCC(=O)NC1=C(C=C(S1)C(=O)OCC)C(C1=C(C=CC=C1)Cl)=O | C16H13Cl2NO4S
